US08012956B2
To a solution of methyl 4-cyano-3-hydroxybenzoate (0.067 g, 0.38 mmol) in 2 ml of DMF was added cesium carbonate (0.2 g, 0.62 mmol), bromocyclobutane (0.051 g, 0.38 mmol), and the reaction mixture was heated at 60° C. and stirred at this temperature for 3 hrs. The reaction mixture was cooled to RT, poured into ice water, and extracted several times with ethyl acetate (3×20 ml). The organic solution was dried over Na2SO4, filtered, rotary evaporated to dryness then dried in vacuo to provide methyl 4-cyano-3-(cyclobutyloxy)benzoate (0.055 g, 63%). 1H NMR (400 MHz, CD3OD): 7.74 (d, 1H), 7.67 (d, 1H), 7.54 (s, 1H), 3.93 (s, 3H), 2.57-2.52 (m, 2H), 2.26-2.21 (m, 2H), 1.94-1.90 (m, 1H), 1.94-1.78 (m, 2H). MS (EI) for C13H13NO3: 232 (MH+).

reactant | methyl 4-cyano-3-hydroxybenzoate | 0.38 mmol, 0.067 g | C(#N)C1=C(C=C(C(=O)OC)C=C1)O | C9H7NO3
reactant | cesium carbonate | 0.62 mmol, 0.2 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | bromocyclobutane | 0.38 mmol, 0.051 g | BrC1CCC1 | C4H7Br
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | methyl 4-cyano-3-(cyclobutyloxy)benzoate | 0.055 g, 63% | C(#N)C1=C(C=C(C(=O)OC)C=C1)OC1CCC1 | C13H13NO3
